US05624950
To a solution of 1 g of 6-methyl-cyclohex-2-enone in 15 cm3 of dichloromethane are added, at room temperature, 3 drops of trifluoroacetic acid, followed by 3.6 cm3 of N-butoxymethyl-N-trimethylsilylmethylbenzylamine. The reaction mixture is brought to reflux, with stirring, for 3 hours. After cooling, potassium carbonate is added and the solution is filtered through a sinter funnel and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (particle size 0.04-0.06 mm, diameter 2 cm, height 20 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (60/40 by volume) and collecting 25 cm3 fractions. Fractions 10 to 20 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 0.7 g of (3aRS,5RS,7aSR)-2benzyl-5-methyl-4-perhydroisoindolone is obtained in the form of a colourless oil.

reactant | 6-methyl-cyclohex-2-enone | 1 g | CC1CCC=CC1=O | C7H10O
reactant | N-butoxymethyl-N-trimethylsilylmethylbenzylamine | 3.6 cm3 | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
catalyst | trifluoroacetic acid | 3 drops | FC(C(=O)O)(F)F | C2HF3O2
product | (3aRS,5RS,7aSR)-2benzyl-5-methyl-4-perhydroisoindolone | 0.7 g | C(C1=CC=CC=C1)N1CC2CCC(C(C2C1)=O)C | C16H21NO
